US07439260B2
Step 3a: (3S)-4,4,4-Trifluoro-3-hydroxy-3-(2-mercapto-1,3-thiazol-5-yl)butanoic acid
To a solution of (3S)-methyl-4,4,4-trifluoro-3-hydroxy-3-(2-mercapto-1,3-thiazol-5-yl)butanoate (enantiomer #1, 7.54 g, 26.2 mmol) in THF (80 ml) and MeOH (40 ml) was added a solution of KOH (39 ml, 2.67 N, 105 mmol). The mixture was heated at 45° C. for 4 h then cooled to room temperature. The reaction mixture was diluted in EtOAc, washed with HCl 10%, brine and dried over MgSO4. The solvent was evaporated to give the title compound in quantitative yield.

reactant | (3S)-methyl-4,4,4-trifluoro-3-hydroxy-3-(2-mercapto-1,3-thiazol-5-yl)butanoate | 26.2 mmol, 7.54 g | COC(C[C@](C(F)(F)F)(C1=CN=C(S1)S)O)=O | C8H8F3NO3S2
reactant | KOH | 105 mmol, 2.67 N, 39 ml | [OH-].[K+]
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | MeOH | 40 ml | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (3S)-4,4,4-Trifluoro-3-hydroxy-3-(2-mercapto-1,3-thiazol-5-yl)butanoic acid | quantitative yield | FC([C@@](CC(=O)O)(C1=CN=C(S1)S)O)(F)F | C7H6F3NO3S2
